US07893056B2
To a mixture of 3-pyrazolidinone hydrochloride (3.84 g, 31.33 mmol) in water (50 ml) and dioxane (10 ml) was added slowly sodium carbonate (6.64 g, 62.66 mmol), followed by a solution of bis(1,1-dimethylethyl)dicarbonate in dioxane (20 ml). The mixture was stirred at rt for 1 h. Water (50 ml) was added, and the mixture was extracted with dichloromethane (2×150 ml). The combined organic solution was washed with water (2×50 ml), dried (Na2SO4) and concentrated to provide 1,1-dimethylethyl 3-oxo-1-pyrazolidinecarboxylate (4.00 g, 68.6%). LCMS: (M+H)+ 186.9.

reactant | 3-pyrazolidinone hydrochloride | 31.33 mmol, 3.84 g | Cl.N1NC(CC1)=O
reactant | sodium carbonate | 62.66 mmol, 6.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bis(1,1-dimethylethyl)dicarbonate | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | Water | 50 ml | O | H2O
product | 1,1-dimethylethyl 3-oxo-1-pyrazolidinecarboxylate | 4.00 g, 68.6% | O=C1NN(CC1)C(=O)OC(C)(C)C | C8H14N2O3
